US04353919
(c) 7-Chloro-2(3H)-benzothiazolone
Prepared analogous to Example 5 from 7-chloro-2-ethoxy-benzothiazole and concentrated hydrochloric acid with a yield of 38% of theory. M.p.: 202°-203° C. (after recrystallization from methanol and from diisopropyl ether).

reactant | 7-chloro-2-ethoxy-benzothiazole | ClC1=CC=CC=2N=C(SC21)OCC | C9H8ClNOS
reactant | hydrochloric acid | Cl | ClH
product | 7-Chloro-2(3H)-benzothiazolone | yield of 38% | ClC1=CC=CC=2NC(SC21)=O | C7H4ClNOS
